US07612075B2
(±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methylamide
Water (1 mL) is added to a solution containing (±)-1-(4-amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methyl ester (20 mg, 0.03 mmol), EXAMPLE 808, in a 1:1 mixture of THF/MeOH (2 mL). At ambient temperature, LiOH monohydrate (3 mg, 0.07 mmol) is then added. After 16 h, the reaction mixture is diluted with water and purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 60% B over 30 min] to provide 25 mg (>100%) of the associated acid as a white solid after lyophilization which is used directly in the next reaction. To a mixture containing (+/−)-1-(4-amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid (12 mg, 0.02 mmol), N-methylmorpholine (19 mg, 0.19 mmol), and HATU (22 mg, 0.05 mmol) in anhydrous DMF (1 mL) is added MeNH2 hydrochloride (5 mg, 0.19 mmol). The reaction mixture is stirred 1 h at ambient temperature and then concentrated to dryness. The residue is dissolved in water and purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 60% B over 30 min] to provide 7 mg (58%) of the title compound as a white solid.

reactant | (+/−)-1-(4-amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid | 0.02 mmol, 12 mg | NC1=NC=NC2=CC(=CC=C12)CN1C(CN(CC1=O)C(COC=1SC(=CC1)Cl)=O)C(=O)O | C20H18ClN5O5S
reactant | N-methylmorpholine | 0.19 mmol, 19 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.05 mmol, 22 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | MeNH2 hydrochloride | 0.19 mmol, 5 mg | CN.Cl
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[(5-chloro-thiophen-2-yloxy)-acetyl]-6-oxo-piperazine-2-carboxylic acid methylamide | 7 mg, 58% | CNC(=O)C1N(C(CN(C1)C(COC=1SC(=CC1)Cl)=O)=O)CC1=CC=C2C(=NC=NC2=C1)N | C21H21ClN6O4S
